US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine and 2′-cyano-2,6-difluorobiphenyl-3-boronic acid were coupled using the procedure described in Example 1 to give 2′,6′-difluoro-3′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as a white solid: δH (360 MHz, CDCl3) 7.30-7.34 (2H, m), 7.59-7.68 (3H, m), 7.75-7.79 (1H, m), 7.88 (1H, dd, J 7 and 1), 8.13 (1H, s), 8.78 (1H, dd, J 7 and 4).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2′-cyano-2,6-difluorobiphenyl-3-boronic acid | C(#N)C1=C(C=CC=C1)C1=C(C(=CC=C1F)B(O)O)F | C13H8BF2NO2
product | 2′,6′-difluoro-3′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC1=C(C(=CC=C1C1=CN=C2N1C=CC(=N2)C(F)(F)F)F)C=2C(=CC=CC2)C#N | C20H9F5N4
